US07138423B2
Step B: Trans-tert-butyl-3-(1-benzyl-4-(ethoxycarbonyl)pyrrolidin-3-yl)-1H-indole-1-carboxylate
To a mixture of trans-tert-butyl 3-(3-ethoxy-3-oxoprop-1-enyl)-1H-indole-1-carboxylate (2.70 g, 8.57 mmol) and N-(methoxymethyl)(phenyl)-N-((trimethylsilyl)methyl)methanamine (2.21 mL) in dichloromethane (11 mL) was added 4 drops of trifluoroacetic acid and the mixture was stirred at 40° C. for 1 hr. Then another 0.15 mL of N-(methoxymethyl)(phenyl)-N-((trimethylsilyl)methyl)methanamine and 2 drop of trifluoroacetic acid were added and the mixture was stirred at 40° C. for another 2 hr. After cooling down to room temperature, the mixture was concentrated under vacuum to give the title compound as a pale yellow sticky oil (quantitative yield). 1H NMR (400 MHz, CDCl3) δ 1.21 (3H, t, J=7.2 Hz), 1.65 (9H, s), 2.86 (2H, q, J=8 Hz), 3.03 (1H, t, J=8 Hz), 3.11 (1H, t, J=8 Hz), 3.19 (1H, q, J=8 Hz), 3.70 (2H, dd, J=16 28 Hz), 3.91 (1H, q, J=8 Hz), 4.13 (2H, q, J=8 Hz), 7.20–7.38 (7H, m), 7.45 (1H, s), 7.74 (1H, d, J=8 Hz), 8.10 (1H, brd s). HPLC purity (retention time): 100% (1.84 min, method C). MS: 449.38 (M+Na+).

reactant | trans-tert-butyl 3-(3-ethoxy-3-oxoprop-1-enyl)-1H-indole-1-carboxylate | 8.57 mmol, 2.70 g | C(C)OC(/C=C/C1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)=O | C18H21NO4
reactant | N-(methoxymethyl)(phenyl)-N-((trimethylsilyl)methyl)methanamine | 2.21 mL | COCN(CC1=CC=CC=C1)C[Si](C)(C)C | C13H23NOSi
reactant | N-(methoxymethyl)(phenyl)-N-((trimethylsilyl)methyl)methanamine | 0.15 mL | COCN(CC1=CC=CC=C1)C[Si](C)(C)C | C13H23NOSi
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
catalyst | trifluoroacetic acid | 4 drops | FC(C(=O)O)(F)F | C2HF3O2
catalyst | trifluoroacetic acid | 2 drop | FC(C(=O)O)(F)F | C2HF3O2
product | Trans-tert-butyl-3-(1-benzyl-4-(ethoxycarbonyl)pyrrolidin-3-yl)-1H-indole-1-carboxylate | quantitative yield | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)[C@@H]1CN(C[C@H]1C(=O)OCC)CC1=CC=CC=C1 | C27H32N2O4
